US08008505B2
24.3 2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazole
Zinc powder (14.7 g, 225 mmol) was added to a suspension of 3-chloro-2-(4-chloro-phenyl)-5,6-difluoro-2H-indazole (16.8 g, 56 mmol) in acetic acid (118 ml). The suspension was heated under reflux conditions for 2 h. The hot solution was filtered, the filtrate was poured onto ice water/brine 1/1 and extracted two times with TBME. The combined extracts were washed with ice water/brine 1/1 and dried over Na2SO4. The solvent was removed under reduced pressure to give a brown solid which was crystallized from dichloromethane/n-heptane to give the title compound (12.1 g, 46 mmol; 81%) as brown crystals. MS: m/e=265.1 [M+H+].

reactant | 3-chloro-2-(4-chloro-phenyl)-5,6-difluoro-2H-indazole | 56 mmol, 16.8 g | ClC=1N(N=C2C=C(C(=CC12)F)F)C1=CC=C(C=C1)Cl | C13H6Cl2F2N2
solvent | acetic acid | 118 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 225 mmol, 14.7 g | [Zn] | Zn
product | 2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazole | 46 mmol, 12.1 g, 81% | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1)F)F | C13H7ClF2N2
